datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CO[NH+:21](C)[H:20].C[C@H]1O[C@H](O[C@H]2CC[C@H]([n+]3ccc(N)nc3[O-:10])O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[NH+](C)C>>CO[NH:21]C.C[C@H]1O[C@H](O[C@H]2CC[C@H]([n+]3ccc(N)nc3[O:10][H:20])O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[NH+](C)C 10=20;20,21=21",
"CC(CO)(CO)[NH2:10].COc1ccc(C(O)C[NH+:21](C(C)CC2=C(C)C(C)(C)CC2)[H:20])cc1>>CC(CO)(CO)[NH2+:10][H:20].COc1ccc(C(O)C[NH:21]C(C)CC2=C(C)C(C)(C)CC2)cc1 10=20;20,21=21",
"C1CC[NH:10]CC1.C[NH+](C)CCCNc1c2ccccc2[n+:21]([H:20])c2c(Cl)ccc([N+](=O)[O-])c12>>C1CC[NH+:10]([H:20])CC1.C[NH+](C)CCCNc1c2ccccc2[n:21]c2c(Cl)ccc([N+](=O)[O-])c12 10=20;20,21=21",
"C=CCC(C)(C[N:10](CC)CC)OC(=O)CC(C)C.COc1ccc2[nH]c3c(C)[n+:21]([H:20])ccc3c2c1>>C=CCC(C)(C[N+:10](CC)(CC)[H:20])OC(=O)CC(C)C.COc1ccc2[nH]c3c(C)[n:21]ccc3c2c1 10=20;20,21=21",
"CCOC(=O)C1C[N+:21]2([H:20])CCC1CC2.C[n+]1c([S-])[n:10]c([O-])c2ccccc21>>CCOC(=O)C1C[N:21]2CCC1CC2.C[n+]1c([S-])[n+:10]([H:20])c([O-])c2ccccc21 10=20;20,21=21",
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:21][H:20].Cc1ccc2ccc(C)[n:10]c2c1>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:21].Cc1ccc2ccc(C)[n+:10]([H:20])c2c1 10=20;20,21=21",
"C1CC[N:10](C2CC[NH2+]CC2)CC1.CCSC(C)=[O+:21][H:20]>>C1CC[N+:10](C2CC[NH2+]CC2)([H:20])CC1.CCSC(C)=[O:21] 10=20;20,21=21",
"Cc1cc[n+:21]([H:20])o1.O=C([O-])/C=C\c1c[nH]c[n:10]1>>Cc1cc[n:21]o1.O=C([O-])/C=C\c1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"CN(CCC[N:10](C)C)C(=O)/C=N/[O-].[NH3+]C(Cc1nc[nH]n1)C(=O)[O:21][H:20]>>CN(CCC[N+:10](C)(C)[H:20])C(=O)/C=N/[O-].[NH3+]C(Cc1nc[nH]n1)C(=O)[O-:21] 10=20;20,21=21",
"CCCNCC[NH:10]CCC.CN1C(=O)C(C)(C)[N:21]([H:20])C1=S>>CCCNCC[NH+:10](CCC)[H:20].CN1C(=O)C(C)(C)[N-:21]C1=S 10=20;20,21=21",
"C(Cc1nnn[n-]1)[NH2+]CC[NH:10]CCc1nnn[n-]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C(Cc1nnn[n-]1)[NH2+]CC[NH+:10](CCc1nnn[n-]1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc([O-:10])cc1Br.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc([O:10][H:20])cc1Br.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+](C)(C)c1cccc([O-:10])c1.O=C([O-])C1(C(=O)[O:21][H:20])CC1>>C[N+](C)(C)c1cccc([O:10][H:20])c1.O=C([O-])C1(C(=O)[O-:21])CC1 10=20;20,21=21",
"CSC(=S)N(C)CC(=O)[O:21][H:20].Cc1cc(C)c([O-:10])cc1C(C)C>>CSC(=S)N(C)CC(=O)[O-:21].Cc1cc(C)c([O:10][H:20])cc1C(C)C 10=20;20,21=21",
"CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O:21][H:20].COc1ccc2c(c1)c(N1CCOCC1)c1c([n:10]2)CCC1>>CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O-:21].COc1ccc2c(c1)c(N1CCOCC1)c1c([n+:10]2[H:20])CCC1 10=20;20,21=21",
"CCOC(C)=[NH:10].CN(C)C=[N+:21](c1ccc(Cl)cc1)[H:20]>>CCOC(C)=[NH+:10][H:20].CN(C)C=[N:21]c1ccc(Cl)cc1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1.O=C([O-])c1cccc2cc3ccccc3[n:10]c12>>Cc1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1.O=C([O-])c1cccc2cc3ccccc3[n+:10]([H:20])c12 10=20;20,21=21",
"[H:20][NH+:21]1CCNCC1.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.C1C[NH:21]CCN1 10=20;20,21=21",
"CC(C)[N+:21](C(C)C)(C(C)C)[H:20].C[C@@H]1CCC[C@H]([N:10](C)C)C1>>CC(C)[N:21](C(C)C)C(C)C.C[C@@H]1CCC[C@H]([N+:10](C)(C)[H:20])C1 10=20;20,21=21",
"C[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCC[NH:10]CC(=O)Nc1c(C)cccc1C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCC[NH+:10](CC(=O)Nc1c(C)cccc1C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[C@@H]1CC[N:10]2CC[C@H](O)[C@H]12.S=C(c1cccc(Br)c1)[N:21](c1ccc(Br)cc1)[H:20]>>C[C@@H]1CC[N+:10]2([H:20])CC[C@H](O)[C@H]12.S=C(c1cccc(Br)c1)[N-:21]c1ccc(Br)cc1 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[NH:10]1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@@H]1CCC[C@H](C)[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C1c2ccccc2CN1C1CC2CCC(C1)[N+:21]2(Cc1ccccc1)[H:20].[S-]c1cc[n:10]c2ccccc12>>O=C1c2ccccc2CN1C1CC2CCC(C1)[N:21]2Cc1ccccc1.[S-]c1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"Nc1nc[n:10]c2c1ncn2CCOCP(=O)([O-])O.[NH3+]C(CC(=O)[O-])C(=O)NC(CC(=O)O)C(=O)[O:21][H:20]>>Nc1nc[n+:10]([H:20])c2c1ncn2CCOCP(=O)([O-])O.[NH3+]C(CC(=O)[O-])C(=O)NC(CC(=O)O)C(=O)[O-:21] 10=20;20,21=21",
"Nc1cc[n:10]cc1C(=O)[O-].O[C@H]1CCCC[C@H]1[NH2+:21][H:20]>>Nc1cc[n+:10]([H:20])cc1C(=O)[O-].O[C@H]1CCCC[C@H]1[NH2:21] 10=20;20,21=21",
"CS(=O)c1ccc([O-:10])cc1.Ic1ccc([NH2+:21][H:20])cc1>>CS(=O)c1ccc([O:10][H:20])cc1.Ic1ccc([NH2:21])cc1 10=20;20,21=21",
"BrCC(Oc1ccccc1)(c1ccccc1)[O-:10].Cc1ccccc1OCC(=O)[O:21][H:20]>>BrCC(Oc1ccccc1)(c1ccccc1)[O:10][H:20].Cc1ccccc1OCC(=O)[O-:21] 10=20;20,21=21",
"CCCCCCCCCC[NH+:21](CCC(=O)[O-])[H:20].OB(CCc1ccccc1)[O-:10]>>CCCCCCCCCC[NH:21]CCC(=O)[O-].OB(CCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1cn2ccncc2[n+:21]1[H:20].CSC(c1ccccc1)=[NH:10]>>COc1cc(S(C)=O)ccc1-c1cn2ccncc2[n:21]1.CSC(c1ccccc1)=[NH+:10][H:20] 10=20;20,21=21",
"C[NH+](C)Cc1cc(O)c(O)c(C[N+:21](C)(C)[H:20])c1.O=C([C@H]1C[C@@H]1c1cccc([N+](=O)[O-])c1)[O-:10]>>C[NH+](C)Cc1cc(O)c(O)c(C[N:21](C)C)c1.O=C([C@H]1C[C@@H]1c1cccc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
